US05023334
Preparation of cyclohexanecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide, Compound 287
A mixture of 5.48 gm (0.04 mole) of 4-acetylpyridine 1-oxide, 5.68 gm (0.04 mole) of cyclohexanecarboxylic acid hydrazide and 100 ml of absolute ethanol is refluxed 4 hours. The reaction mixture is concentrated in vacuo to dryness to give a solid. The solid is crystallized from isopropanol to furnish 8.20 gm (79%) of the title compound; mp 245.3°.

reactant | 4-acetylpyridine 1-oxide | 0.04 mole, 5.48 gm | C(C)(=O)C1=CC=[N+](C=C1)[O-] | C7H7NO2
reactant | cyclohexanecarboxylic acid hydrazide | 0.04 mole, 5.68 gm | C1(CCCCC1)C(=O)NN | C7H14N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | cyclohexanecarboxylic acid [1-(4-pyridinyl)ethylidene]hydrazide 1-oxide | 8.20 gm, 79% | N1=CC=C(C=C1)C(C)=N[NH+](C(=O)C1CCCCC1)[O-] | C14H19N3O2
